US07601714B2
A solution of 2-(3-pyridyl)ethan-1-ol (100 mg, 0.79 mmol) and CBr4 (314 mg, 0.95 mmol) in THF (2 mL) was cooled to 0° C. and PPh3 (313 mg, 1.18 mmol) was added portionwise. The ice-bath was removed and the reaction mixture was stirred at room temperature for 16 h. The mixture was concentrated and diluted with CH2Cl2. The mixture was basified using saturated NaHCO3 and the organic phase was separated. The aqueous phase was re-extracted with CH2Cl2 and the combined organic phase was dried over Na2SO4 and concentrated. Silica gel prep TLC using 95:5 CH2Cl2:MeOH as an eluent afforded 3-(2-bromo-ethyl)-pyridine.

reactant | 2-(3-pyridyl)ethan-1-ol | 0.79 mmol, 100 mg | N1=CC(=CC=C1)CCO | C7H9NO
reactant | CBr4 | 0.95 mmol, 314 mg | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 1.18 mmol, 313 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(2-bromo-ethyl)-pyridine | BrCCC=1C=NC=CC1 | C7H8BrN
